US05849743
a) 9-(2-Formyl-1-pyrrolyl)benzo[f]quinoxaline-2,3(1H,4H)-dione
7.0 g (30.8 mmol) of 9-aminobenzo[f]quinoxaline-2,3(1H,4H)-dione and 6.4 g (30.8 mmol) of 2,5-dimethoxy-2-(1,1-dimethoxymethyl)tetrahydrofuran were refluxed in 170 ml of glacial acetic acid for 30 minutes. The precipitate was filtered off with suction and purified by chromatography on silica gel (mobile phase: toluene/acetone/glacial acetic acid=10/10/1). 2.5 g (27%) of the product were obtained. Melting point >250° C.

reactant | 9-aminobenzo[f]quinoxaline-2,3(1H,4H)-dione | 30.8 mmol, 7.0 g | NC=1C=CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1 | C12H9N3O2
reactant | 2,5-dimethoxy-2-(1,1-dimethoxymethyl)tetrahydrofuran | 30.8 mmol, 6.4 g | COC1(OC(CC1)OC)C(OC)OC | C9H18O5
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
product | 9-(2-Formyl-1-pyrrolyl)benzo[f]quinoxaline-2,3(1H,4H)-dione | 2.5 g, 27% | C(=O)C=1N(C=CC1)C=1C=CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1 | C17H11N3O3
